Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Carrots
 
Attending: ___
 
Chief Complaint:
nausea, vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with past medical
history of asthma presenting to the emergency department today
complaining of nausea, vomiting, diarrhea. Awoke this morning
with nausea, has had approximately 15 episodes of vomiting,
nonbilious nonbloody throughout the day (she had multiple PO
trials during that time and did not tolerate any of them). She
had one episode of loose stool on day of presentation. She noted
some abdominal cramping but not pain. No fevers noted at home 
but
notes chills and body aches for a few days. She works as an MA 
at
an ___ practice in ___ and notes someone was diagnosed
with the flu last ___ but no one else at work is sick. 
Noted
a mild headache but no respiratory symptoms upon arrival to ED,
but today reported a cough and mild dyspnea not severe enough to
ask for an inhaler since she arrived to the ED. No palpitations
or chest pain. No urinary symptoms. 

She reported that after her episode of vomiting she fell asleep
on her bed, called her ex-boyfriend to come help her, but then
fell asleep. She reports he had some difficulty arousing her, 
she
said that this is unusual for her and she thought she might of
had a syncopal episode, then further clarified upon arrival to
the floor that she is not a deep sleeper, but that he had to
shake her to wake her up, and she was confused about why she was
being shaken but otherwise oriented. He had not noticed any
behavior worrisome for a seizure. She also noted some
lightheadedness with sitting up and standing since her illness
started, but this feeling passes quickly and she has been able 
to
walk without problems, no LOC or fall.

 
Past Medical History:
Asthma
Anxiety
 
Social History:
___
Family History:
Mother - HLD
Father - HTN
 
Physical Exam:
GEN: NAD
HENT: MMM
CV: RRR, no murmurs, no JVD
RESP: non-labored on room air, good air entry, no crackles or
wheezes
GI: soft, non-distended, non-tender, normal bowel sounds
GU: no suprapubic tenderness
EXT: no edema
SKIN: no jaundice
NEURO: alert, oriented x4
PSYCH: calm
 
Pertinent Results:
___ 05:45AM BLOOD Glucose-80 UreaN-4* Creat-0.6 Na-145 
K-5.0 Cl-106 HCO3-25 AnGap-___ yo F with history of asthma presented with nausea, vomiting, 
diarrhea, tachycardia. Found with norovirus positive. Admitted 
for viral gastroenteritis and dehydration. S/p 4L IVF. Symptoms 
improved, tachycardia improved, diet advanced to regular.
The patient was stable upon discharge. Hygiene discussed at 
length. Avoidance of children, elderly, and healthcare settings 
discussed and length. The patient was advised to follow up if 
symptoms resumed or worsened. Risks and benefits discussed, the 
patient verbalized understanding and agreed to plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. Fluticasone Propionate 110mcg 1 PUFF IH BID 
3. LORazepam 0.5 mg PO ___ TABLETS BEFORE FLIGHTS PRN flight 
anxiety 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
2.  Fluticasone Propionate 110mcg 1 PUFF IH BID  
3.  LORazepam 0.5 mg PO ___ TABLETS BEFORE FLIGHTS PRN flight 
anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Norovirus infection
Gastroenteritis
Dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Reason for hospitalizations:
Norovirus infection causing nausea, vomiting, diarrhea, 
dehydration.

Treatments in hospital:
IV fluids.

Instructions for after discharge from hospital:
1) Stay adequately hydrate.
2) Slowly advance diet to regular.
3) Thorough hand washing with soap and water after toughing 
mouth or anal area.
4) Stay away from patients, healthcare settings, elderly, or 
patients for the next ___ days.
5) Follow up with symptoms worsen or if you develop fevers.
 
Followup Instructions:
___